US04824476
(c) 5-Amino-2-chloro-4-fluorobenzoyl cyanide oxime sodium salt
0.3 g of sodium in 20 ml of absolute ethanol is introduced, with stirring, into a three-necked flask. There are then added slowly dropwise at room temperature, with stirring, firstly 1.8 g of 5-amino-2-chloro-4-fluorobenzyl cyanide and subsequently 1.5 ml of isopentylnitrite. The reaction solution is stirred at room temperature for a further 15 hours, and afterwards concentrated by evaporation. The residue is is taken up in glacial acetic acid, stirred up and filtered to thus obtain 2.2 g of the sodium salt of 5-amino-2-chloro-4-fluorobenzoyl cyanide which melts at 263°-264° C.

reactant | sodium | 0.3 g | [Na] | Na
reactant | 5-amino-2-chloro-4-fluorobenzyl cyanide | 1.8 g | NC=1C(=CC(=C(CC#N)C1)Cl)F | C8H6ClFN2
reactant | isopentylnitrite | 1.5 ml | C(CC(C)C)ON=O | C5H11NO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-Amino-2-chloro-4-fluorobenzoyl cyanide oxime sodium salt | [Na].NC=1C(=CC(=C(C(C#N)=NO)C1)Cl)F | InChI=1S/C8H5ClFN3O.Na/c9-5-2-6(10)7(12)1-4(5)8(3-11)13-14;/h1-2,14H,12H2;
